US05198452
To a suspension of 1.1 g of 60% sodium hydride in 30 ml of dimethyl sulfoxide under stirring at 70° C. for 30 minutes was added 4.1 g of 4-(4-methylphenyl)butanol at room temperature and stirred for 30 minutes. To a mixture was added 40 ml of tetrahydrofuran and was cooled at 0° C. To the resulting mixture was added dropwise a solution of 3.9 g of 6-chloromethyl-2-formylpyridine in 40 ml of tetrahydrofuran. After completion of the addition, the mixture was stirred at the same temperature for 30 minutes and further was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into water, extracted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give a residue as an oily substance. The residue was purified by column chromatography on silica gel by passing chloroform and methanol(100:1 ) to give 1.3 g of 6-[4-(4-methylphenyl) butoxy]methyl-2-formylpyridine.

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 4-(4-methylphenyl)butanol | 4.1 g | CC1=CC=C(C=C1)CCCCO | C11H16O
reactant | 6-chloromethyl-2-formylpyridine | 3.9 g | ClCC1=CC=CC(=N1)C=O | C7H6ClNO
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6-[4-(4-methylphenyl) butoxy]methyl-2-formylpyridine | 1.3 g | CC1=CC=C(C=C1)CCCCOCC1=CC=CC(=N1)C=O | C18H21NO2
